US08349824B2
A mixture of ethyl 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate (1.24 g, 3.47 mmol) and lithium hydroxide monohydrate (291 mg, 6.94 mmol) in methanol (20 ml) and water (5 ml) is stirred for 4 hours at 50° C. The solvent is evaporated. The brown oily residue is dissolved in water and acidified to pH=5 with 2N aqueous hydrochloric acid (3.47 ml). The precipitated off-white solid is collected by filtration, dissolved in methanol and evaporated affording 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid (1.09 g, 95.3%) as an off-white solid. Mp.: >250° C. MS: m/z=328.0 (M−H+).

reactant | ethyl 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate | 3.47 mmol, 1.24 g | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)OCC)=N1)C | C16H19N7O3
reactant | lithium hydroxide monohydrate | 6.94 mmol, 291 mg | O.[OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 5-(2-(dimethylamino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 1.09 g, 95.3% | CN(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C14H15N7O3
